US08871753B2
Step D: N-{3-[2-(4-Aminopyridin-2-yl)ethyl]phenyl}-2,5-dichloropyrimidin-4-amine dihydrochloride
To a mixture of tert-butyl [2-(2-{3-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}ethyl)pyridin-4-yl]carbamate (0.75 g, 1.6 mmol) in 1,4-dioxane (3.0 mL) was added 4 M hydrogen chloride in 1,4-dioxane (7.1 mL). The resultant reaction mixture was stirred at rt for 2 hours. The reaction mixture was concentrated under vacuum to give the desired product as a light yellow powder (0.67 g, 95%). LCMS for C17H16Cl2N5 (M+H)+: m/z=360.2, 362.0.

reactant | tert-butyl [2-(2-{3-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}ethyl)pyridin-4-yl]carbamate | 1.6 mmol, 0.75 g | ClC1=NC=C(C(=N1)NC=1C=C(C=CC1)CCC1=NC=CC(=C1)NC(OC(C)(C)C)=O)Cl | C22H23Cl2N5O2
reactant | hydrogen chloride | 4 M | Cl | ClH
solvent | 1,4-dioxane | 3.0 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 7.1 mL | O1CCOCC1 | C4H8O2
product | N-{3-[2-(4-Aminopyridin-2-yl)ethyl]phenyl}-2,5-dichloropyrimidin-4-amine dihydrochloride | 0.67 g, 95% | Cl.Cl.NC1=CC(=NC=C1)CCC=1C=C(C=CC1)NC1=NC(=NC=C1Cl)Cl | InChI=1S/C17H15Cl2N5.2ClH/c18-15-10-22-17(19)24-16(15)23-14-3-1-2-11(8-14)4-5-13-9-12(20)6-7-21-13;;/h1-3,6-10H,4-5H2,(H2,20,21)(H,22,23,24);2*1H
